US06821965B1
N-cyclobutyl-3-(3,4-dimethoxybenzamido)-4-methylbenzamide
Using an analogous procedure to that described in Example 8, 3-(3,4-dimethoxybenzamido)-4-methylbenzoic acid was reacted with cyclobutylamine to give the title compound; Mass Spectrum: M+H+ 369.

reactant | 3-(3,4-dimethoxybenzamido)-4-methylbenzoic acid | COC=1C=C(C(=O)NC=2C=C(C(=O)O)C=CC2C)C=CC1OC | C17H17NO5
reactant | cyclobutylamine | C1(CCC1)N | C4H9N
product | N-cyclobutyl-3-(3,4-dimethoxybenzamido)-4-methylbenzamide | C1(CCC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC(=C(C=C1)OC)OC)=O)=O | C21H24N2O4
